US09403845B2
To Na2CO3 (180 mg, 1.68 mmol) was added water (1.5 ml) and acetonitrile (2 ml) and the solution was degassed for 5 min with argon. 3-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyrazol-1-yl]pyridine (109 mg, 0.40 mmol), a solution of 6-bromo-N-methoxy-1,3,3-trimethyl-2,2-dioxo-pyrido[3,2-c]thiazin-4-imine (117 mg, 0.34 mmol) in acetonitrile (2 ml) and Pd(dppf)Cl2 (13 mg, 0.017 mmol) were added sequentially followed by rinsing the flask with acetonitrile (1 ml). The mixture was stirred at 100° C. for 1 h then allowed to cool to ambient temperature. Water and ethyl acetate were added then the phases were separated. The aqueous phase was extracted with ethyl acetate. The combined organic phases were dried over Na2SO4, filtered and concentrated in vacuo. Purification by chromatography afforded two oxime isomers of N-methoxy-1,3,3-trimethyl-2,2-dioxo-6-[1-(3-pyridyl)pyrazol-4 yl]pyrido[3,2-c]thiazin-4-imine.

reactant | Na2CO3 | 1.68 mmol, 180 mg | C(=O)([O-])[O-].[Na+].[Na+]
reactant | water | 1.5 ml | O | H2O
reactant | 3-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyrazol-1-yl]pyridine | 0.40 mmol, 109 mg | CC1(OB(OC1(C)C)C=1C=NN(C1)C=1C=NC=CC1)C | C14H18BN3O2
reactant | 6-bromo-N-methoxy-1,3,3-trimethyl-2,2-dioxo-pyrido[3,2-c]thiazin-4-imine | 0.34 mmol, 117 mg | BrC=1C=CC=2N(S(C(C(C2N1)=NOC)(C)C)(=O)=O)C | C11H14BrN3O3S
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
catalyst | Pd(dppf)Cl2 | 0.017 mmol, 13 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
product | N-methoxy-1,3,3-trimethyl-2,2-dioxo-6-[1-(3-pyridyl)pyrazol-4 yl]pyrido[3,2-c]thiazin-4-imine | CON=C1C2=C(N(S(C1(C)C)(=O)=O)C)C=CC(=N2)C=2C=NN(C2)C=2C=NC=CC2 | C19H20N6O3S
